US06696473B2
Preparation of 2-(5-Acetyl-2-ethylaminophenylimino)-3-benzyl-5-(3-methyl-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylidene)thiazolidin-4-one
The title compound was prepared in a manner similar to Example 168 by condensing intermediate 3-methyl-2-methylthio-4,5,6,7-tetrahydrobenzothiazol-3-ium p-toluenesulfonate with 2-(5-acetyl-2-ethylaminophenylimino)-3-benzylthiazolidin-4-one. MS(ESI): 519 (MH+).

reactant | 3-methyl-2-methylthio-4,5,6,7-tetrahydrobenzothiazol-3-ium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(SC2=C1CCCC2)SC
reactant | 2-(5-acetyl-2-ethylaminophenylimino)-3-benzylthiazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1SCC(N1CC1=CC=CC=C1)=O)NCC | C20H21N3O2S
product | 2-(5-Acetyl-2-ethylaminophenylimino)-3-benzyl-5-(3-methyl-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylidene)thiazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)CCCC2)NCC | C28H30N4O2S2
